US09353081B2
[C] (rac)-4-Bromo-6,7-dihydro-5H-cyclopenta[c]pyridin-7-amine
4-Bromo-5H-cyclopenta[c]pyridin-7(6H)-one (1.01 g, 4.76 mmol), titanium (IV) isopropoxide (2.79 mL, 9.53 mmol) and ammonia, 2M in MeOH (11.9 mL, 23.8 mmol) were stirred at RT for 5 h. The reaction mixture was cooled to 0° C. and NaBH4 (270 mg, 7.14 mmol) was added in three portions over 20 min; the resulting mixture was stirred at RT for an additional 1.5 h. The reaction was quenched by pouring it into ammonium hydroxide (25%) (24.8 mL, pH 9-10), the precipitate was filtered and washed with AcOEt (3×, each time suspended in AcOEt and stirred for 5 min). The organic layer was separated and the remaining aqueous layer was extracted with EtOAc. The combined organic extracts were extracted with aq. 1 M HCl. The acidic aqueous extracts were washed with EtOAc (1×), then treated with aq. sodium hydroxide (2 M) to give a pH of 10-12, and extracted with EtOAc (3×). The combined organic extracts were washed with brine, dried (Na2SO4) and concentrated in vacuo to afford the title compound (530 mg, 52% yield in 70% purity, determined by 1H-NMR) as dark green amorphous solid. MS: 213.0 (M+H+, 1Br).

reactant | 4-Bromo-5H-cyclopenta[c]pyridin-7(6H)-one | 4.76 mmol, 1.01 g | BrC=1C2=C(C=NC1)C(CC2)=O | C8H6BrNO
reactant | ammonia | N | H3N
reactant | MeOH | 23.8 mmol, 11.9 mL | CO | CH4O
reactant | NaBH4 | 7.14 mmol, 270 mg | [BH4-].[Na+]
catalyst | titanium (IV) isopropoxide | 9.53 mmol, 2.79 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (rac)-4-Bromo-6,7-dihydro-5H-cyclopenta[c]pyridin-7-amine | 530 mg, 52% yield | BrC=1C2=C(C=NC1)C(CC2)N | C8H9BrN2
